US05587389
3. 2-{[[3-Methyl-4-[2-(4-methyl-5-thiazolyl)-ethylthio]-2-pyridinyl]methyl]thio}-1H-benzimidazole
Following the procedure described in Example 1, the reaction of 2-mercapto-1H-benzimidazole with 2-chloromethyl-3-methyl-4-[2-(4-methyl-5-thiazolyl)ethylthio]pyridine hydrochloride gives the title compound as a colorless solid of m.p. 150°-152° C. following crystallization from dichloromethane/diisopropyl ether.

reactant | 2-mercapto-1H-benzimidazole | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 2-chloromethyl-3-methyl-4-[2-(4-methyl-5-thiazolyl)ethylthio]pyridine hydrochloride | Cl.ClCC1=NC=CC(=C1C)SCCC1=C(N=CS1)C
product | 2-{[[3-Methyl-4-[2-(4-methyl-5-thiazolyl)-ethylthio]-2-pyridinyl]methyl]thio}-1H-benzimidazole | CC=1C(=NC=CC1SCCC1=C(N=CS1)C)CSC1=NC2=C(N1)C=CC=C2 | C20H20N4S3
